US07592373B2
1.37.a. 1-(4-iodobenzyl)-4-methylpiperidin-4-ol
Prepared analogously to Example 1.1.c. from 4-iodobenzyl bromide and 4-methylpiperidin-4-ol. Yield: 0.22 g (30% of theory); C13H18INO (M=331.19); calc.: molecular ion peak (M+H)+: 332; found: molecular ion peak (M+H)+: 332; Rf value: 0.45 (silica gel, dichloromethane/ethanol (20:1)).

reactant | 4-iodobenzyl bromide | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | 4-methylpiperidin-4-ol | CC1(CCNCC1)O | C6H13NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-(4-iodobenzyl)-4-methylpiperidin-4-ol | IC1=CC=C(CN2CCC(CC2)(O)C)C=C1 | C13H18INO
